US05728712
N-(3,4-Dimethoxybenzenesulphonyl)-1,2,3,4-tetrahydroquinoline
1,2,3,4-Tetrahydroquinoline (0.29 ml) was added to a suspension of 3,4-dimethoxybenzene sulphonyl chloride (0.50 g) in dichloromethane (15 ml) at room temperature. Triethylamine (0.44 ml) was added and the resulting mixture stirred for 24 hours at room temperature. The reaction mixture was then diluted with dichloromethane (20 ml) and washed successively with saturated aqueous sodium hydrogen carbonate solution (10 ml), 2N hydrochloric acid (10 ml) and saturated aqueous sodium chloride solution (10 ml). Drying over magnesium sulphate and concentration in vacuo provided a yellow oil. Purification by column chromatography eluting with 30% ethyl acetate in hexane provided the title compound as a colourless oil (0.60 g) which solidified on standing.

reactant | 1,2,3,4-Tetrahydroquinoline | 0.29 ml | N1CCCC2=CC=CC=C12 | C9H11N
reactant | 3,4-dimethoxybenzene sulphonyl chloride | 0.50 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | Triethylamine | 0.44 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(3,4-Dimethoxybenzenesulphonyl)-1,2,3,4-tetrahydroquinoline | 0.60 g | COC=1C=C(C=CC1OC)S(=O)(=O)N1CCCC2=CC=CC=C12 | C17H19NO4S
